US06544985B2
{5-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-2-dimethylamino-2′,3′-difluoro-biphenyl-4-yl}-carbamic acid tert.-butyl ester
The title compound was prepared from (5-amino-2-dimethylamino-2′,3′-difluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example J3) 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile (Example L1) according to the general procedure M. Obtained as a yellow solid (145 mg).

reactant | (5-amino-2-dimethylamino-2′,3′-difluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C=C1N)C1=C(C(=CC=C1)F)F)N(C)C)=O | C19H23F2N3O2
reactant | 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile | CC1(OC(C=C(O1)C=1C=C(C#N)C=CC1)=O)C | C13H11NO3
product | {5-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-2-dimethylamino-2′,3′-difluoro-biphenyl-4-yl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C=C1NC(CC(=O)C1=CC(=CC=C1)C#N)=O)C1=C(C(=CC=C1)F)F)N(C)C)=O | C29H28F2N4O4
